US09303232B2
Synthesis of 3,4-dimethylcyclohex-3-enecarbonitrile
A solution of acrylonitrile (1 eq.) and 2,3-dimethylbuta-1,3-diene (1.1 eq.) in toluene (2M) was pumped through a heated coil reactor at 240° C. with a residence time of 10 minutes. The resulting mixture was concentrated under reduced pressure and yielded the product as colorless oil (87% yield).

reactant | acrylonitrile | 1 eq. | C(C=C)#N | C3H3N
reactant | 2,3-dimethylbuta-1,3-diene | 1.1 eq. | CC(=C)C(=C)C | C6H10
solvent | toluene | 2M | C1(=CC=CC=C1)C | C7H8
product | 3,4-dimethylcyclohex-3-enecarbonitrile | 87% yield | CC=1CC(CCC1C)C#N | C9H13N
